US05441955
8-Fluoroindolo[2,1-b]pteridine-6,12-dione
Using the procedure in Example 56, and substituting 3-aminopyrazine-2-carboxylic acid for 2-aminonicotinic acid and 5-fluoroisatin for isatin gave 79 mg (6%) of the title compound: mp 336° C. (dec); 1H NMR(DMSO-d6) δ 7.65-8.00 (m, 2H), 8.50 (s, 1H), 9.05-9.20 (m, 2H); MS (M+H)+ 269.

reactant | 2-aminonicotinic acid | NC1=C(C(=O)O)C=CC=N1 | C6H6N2O2
reactant | 5-fluoroisatin | FC=1C=C2C(C(NC2=CC1)=O)=O | C8H4FNO2
reactant | isatin | N1C(=O)C(=O)C2=CC=CC=C12 | C8H5NO2
product | 8-Fluoroindolo[2,1-b]pteridine-6,12-dione | 79 mg, 6% | FC=1C=C2C(C3=NC4=NC=CN=C4C(N3C2=CC1)=O)=O | C13H5FN4O2
